US07601716B2
6-Bromo-3,4-dihydro-1H-quinoxalin-2-one
5-bromo-2,3-diaminopyridine (2.0 g, 10.6 mmol) and glyoxylic acid monohydrate (1.23 g, 13.4 mmol) were combined in water (55 mL), sonicated for 10 minutes and stirred overnight. The product was filtered, washed with water (5×100 mL) and dried under vacuum to afford 2.214 g of crude product. To a suspension of this material in methanol (100 mL) was added NaBH4 (1.0 g, 26.3 mmol) with periodic cooling in an ice water bath to maintain reaction temperature below 35° C. After stirring for 4 hours, the reaction was quenched with 6N HCl (20 mL) and the resulting mixture stirred overnight. The mixture was warmed to 50° C. for 0.5 hour before removing volatile solvents by rotary evaporation. After adjusting the pH of the aqueous reside to 8 by the addition of 10N NaOH, the product was removed by filtration and washed with water (5×50 mL) to give the title compound (1.985 g, 82%). m.p. 265° C. (dec), 1H-NMR (DMSO-d6, 400 MHz) δ 10.47 (s, 1H), 7.65 (d, J=2.1 Hz, 1H), 7.01-6.99 (m, 2H), 3.94 (s, 2H).

reactant | 5-bromo-2,3-diaminopyridine | 10.6 mmol, 2.0 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | glyoxylic acid monohydrate | 13.4 mmol, 1.23 g | O.C(C=O)(=O)O
reactant | NaBH4 | 26.3 mmol, 1.0 g | [BH4-].[Na+]
reactant | methanol | 100 mL | CO | CH4O
solvent | water | 55 mL | O | H2O
product | 6-Bromo-3,4-dihydro-1H-quinoxalin-2-one | 1.985 g, 82% | BrC=1C=C2NCC(NC2=CC1)=O | C8H7BrN2O
